US04288385
Preparation of 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl alcohol
A sample of 3-[(1-ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl acetate (23.1 g; 0.068 mol) is added to a mixture of concentrated hydrochloric acid (30 ml), water (40 ml) and methanol (320 ml). The reaction mixture is refluxed for 4 hours, cooled down and concentrated in vacuo. It is then diluted with water, extracted with ether, and the ether layer dried. The ether is removed in vacuo to leave a red oil, which readily solidifies to a yellow-orange solid (19.9 g; 98.5%). A similarly prepared and purified sample has a melting point of 51°-54° C.

reactant | 3-[(1-ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl acetate | 0.068 mol, 23.1 g | C(C)(=O)OCC1=C(C(=C(C=C1C)[N+](=O)[O-])NC(CC)CC)[N+](=O)[O-] | C15H21N3O6
reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | water | 40 ml | O | H2O
solvent | methanol | 320 ml | CO | CH4O
product | 3-[(1-Ethylpropyl)amino]-6-methyl-2,4-dinitrobenzyl alcohol | C(C)C(CC)NC=1C(=C(CO)C(=CC1[N+](=O)[O-])C)[N+](=O)[O-] | C13H19N3O5
